US04558132
N-Methyl-3-nitro-N-phenyl-2-pyridinamine hydrochloride
To 59 g (0.55 mole) of N-methylaniline, stirred and heated at 115°-120° C. under nitrogen atmosphere was added 79 g (0.50 mole) of 2-chloro-3-nitropyridine in four portions at 15 minute intervals. The melt was maintained at 120°-125° C. for 1 hour and then poured into 700 ml of dilute aqueous hydrochloric acid. The precipitate was collected by filtration and dried. The solid was dried and recrystallized as the hydrochloride salt from ethyl acetate-ethereal hydrogen chloride to give 88.3 g (66%) yellow solid. A portion was recrystallized from ethyl acetate-ethyl alcohol to give yellow solid, m.p. 181°-182° C. after undergoing phase changes from 165°-170° C. and at 179° C.

reactant | N-methylaniline | 0.55 mole, 59 g | CNC1=CC=CC=C1 | C7H9N
reactant | 2-chloro-3-nitropyridine | 0.50 mole, 79 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | hydrochloric acid | 700 ml | Cl | ClH
product | N-Methyl-3-nitro-N-phenyl-2-pyridinamine hydrochloride | 88.3 g, 66% | Cl.CN(C1=NC=CC=C1[N+](=O)[O-])C1=CC=CC=C1 | InChI=1S/C12H11N3O2.ClH/c1-14(10-6-3-2-4-7-10)12-11(15(16)17)8-5-9-13-12;/h2-9H,1H3;1H
